US08431575B2
A suspension of 4-[5-(4-benzyloxy-phenyl)-6-butyl-pyridazin-3-yloxymethyl]-piperidin-4-ol dihydrochloride (0.1 mmol) aqueous formaldehyde (37%, 0.3 mmol) and molecular sieves in anhydrous DCM may be stirred for 20 minutes. To this suspension at room temperature may be added sodium triacetoxyborohydride (0.3 mmol). The reaction mixture may be monitored by LCMS until the reaction is complete. The reaction may be quenched with saturated NaHCO3 and the layers may be separated. The organic layer may be dried and the solvent may be removed under reduced pressure. The crude product may be purified by flash chromatography using with 1-5% (2N ammonia in MeOH) in DCM to give 4-[5-(4-benzyloxy-phenyl)-6-butyl-pyridazin-3-yloxymethyl]-1-methyl-piperidin-4-ol. The neutral amine may be treated with 2N HCl in diethyl ether and DCM. The volatiles may be removed under reduced pressure and the salt triturated with diethyl ether and filtered to provide the title compound. LCMS: m/z 463 [M+1]. 1H NMR (400 MHz, CDCl3) δ 7.32-7.49 (5H, m), 7.19-7.25 (2H, m), 7.02-7.09 (2H, m), 6.78 (1H, bs), 5.12 (2H, s), 4.58-4.83 (1H, m), 4.32 (2H, s), 2.54-2.69 (3H, m), 2.40-2.51 (2H, m), 2.27-2.36 (3H, m), 1.71-1.83 (2H, m), 1.59-1.70 (2H, m), 1.18-1.51 (5H, m), 0.81 (3H, t).

reactant | 4-[5-(4-benzyloxy-phenyl)-6-butyl-pyridazin-3-yloxymethyl]-piperidin-4-ol dihydrochloride | 0.1 mmol | Cl.Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=C(N=NC1CCCC)OCC1(CCNCC1)O
reactant | sodium triacetoxyborohydride | 0.3 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-[5-(4-benzyloxy-phenyl)-6-butyl-pyridazin-3-yloxymethyl]-1-methyl-piperidin-4-ol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=C(N=NC1CCCC)OCC1(CCN(CC1)C)O | C28H35N3O3
